US04985419
A solution of (2RS)-2-methylbutylamine (3.18 cc) in methanol (5 cc) is added dropwise in the course of 5 minutes to a solution, cooled to 0°-5° C., of methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate hydrochloride (3.49 g) in methanol (21 cc). The mixture is stirred for 2 hours at 5° C. and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give a residue which is taken up with ethyl acetate (50 cc). The solution is washed with distilled water (50 cc) alkalinized to pH 9 with N sodium hydroxide. The two phases are allowed to settle and the organic phase is separated and washed with half-saturated sodium chloride solution (50 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is purified by chromatography on a column of neutral alumina (height: 23 cm; diameter: 2.1 cm), eluting with mixtures of ethyl acetate and cyclohexane in proportions (by volume) of 20:80 (850 cc) and 10:90 (500 cc), then with pure ethyl acetate (500 cc) and finally with mixtures of ethyl acetate and methanol in proportions (by volume) of 95:5 (500 cc), 90:10 (500 cc) and 80:20 (500 cc and collecting 50-cc fractions. The first litre is discarded and fractions 40 to 56 are then combined, concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give 10-[(2RS)-1-diethylamino-2-propyl]-N-[ (2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine (1.33 g) in the form of a yellow product of meringue-like consistency.

reactant | (2RS)-2-methylbutylamine | 3.18 cc | CC(CN)CC | C5H13N
reactant | methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate hydrochloride | 3.49 g | Cl.C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(OC)=N)CC
reactant | ethyl acetate | 50 cc | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 cc | CO | CH4O
solvent | methanol | 21 cc | CO | CH4O
product | 10-[(2RS)-1-diethylamino-2-propyl]-N-[ (2RS)-2-methylbutyl]-2-phenothiazinecarboxamidine | 1.33 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)NCC(CC)C)CC | C25H36N4S
